US04851519
A suspension of 250 mg of 5'-[2(RS)-(2,4-dichlorophenylthio)propionamido]-2',5'-dideoxy-5-ethyluridine in 10 ml of acetic acid was cooled to 0° C. and 60 mg of 30% hydrogen peroxide were added. The mixture was stirred at 0° C. for 0.5 hour and then at room temperature overnight. An additional 60 mg of 30% hydrogen peroxide were added and the mixture was stirred for 24 hours. An additional 30 mg of 30% hydrogen peroxide were added and the mixture was stirred for an additional 4 hours and then evaporated to dryness. The residue was triturated with methanol and the resulting solid was removed by filtration and recrystallized from methanol to give 90 mg of 5'-[2(RS)-(2,4-dichlorophenylsulphinyl)propionamido]-2',5'-dideoxy-5-ethyluridine in the form of a white solid of melting point 208°-209° C.

reactant | 5'-[2(RS)-(2,4-dichlorophenylthio)propionamido]-2',5'-dideoxy-5-ethyluridine | 250 mg | ClC1=C(C=CC(=C1)Cl)SC(C(=O)NC[C@@H]1[C@H](C[C@@H](O1)N1C(=O)NC(=O)C(=C1)CC)O)C | C20H23Cl2N3O5S
reactant | hydrogen peroxide | 60 mg | OO | H2O2
reactant | hydrogen peroxide | 60 mg | OO | H2O2
reactant | hydrogen peroxide | 30 mg | OO | H2O2
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 5'-[2(RS)-(2,4-dichlorophenylsulphinyl)propionamido]-2',5'-dideoxy-5-ethyluridine | 90 mg | ClC1=C(C=CC(=C1)Cl)S(=O)C(C(=O)NC[C@@H]1[C@H](C[C@@H](O1)N1C(=O)NC(=O)C(=C1)CC)O)C | C20H23Cl2N3O6S
